US07199258B2
Synthesis 2-(S)-(+)-(5-bromo-6-methoxy-2-naphthyl)propanoic acid, 4-(nitrooxy)butyl ester
A mixture of triethylamine (5.25 g, 52 mmol), of 2-(S)-(5-bromo-6-methoxy-2-naphthyl)propanoic acid (Bromo-Naproxen) (13.3 g, 43 mmol); e.e.99%) and of 4-bromobutylnitrate (43 mmol) in DMF (120 ml) was stirred under nitrogen for 2 days at 25° C.

reactant | triethylamine | 52 mmol, 5.25 g | C(C)N(CC)CC | C6H15N
reactant | 2-(S)-(5-bromo-6-methoxy-2-naphthyl)propanoic acid | 43 mmol, 13.3 g | BrC1=C2C=CC(=CC2=CC=C1OC)[C@@H](C(=O)O)C | C14H13BrO3
reactant | 4-bromobutylnitrate | 43 mmol | BrCCCCO[N+](=O)[O-] | C4H8BrNO3
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 2-(S)-(+)-(5-bromo-6-methoxy-2-naphthyl)propanoic acid, 4-(nitrooxy)butyl ester | BrC1=C2C=CC(=CC2=CC=C1OC)[C@@H](C(=O)OCCCCO[N+](=O)[O-])C | C18H20BrNO6
